US04065290
3-(3-chlorophenyl)-5-(4-chlorophenyl)-1-methyl-4-piperidinone
A 10 g. portion of 3-(3-chlorophenyl)-5-(4-chlorophenyl)-1-methyl-4(1H)-pyridinone was made from 33.6 g. of the corresponding 2-propanone by the procedures of Examples 1-3. The pyridinone was reduced with lithium aluminum hydride and the reaction mixture was separated by chromatography as described in the examples above. The products of Examples 15 and 16 were obtained as a mixture containing both, combined yield 2.1 g., m.p. 125.5°.

reactant | 3-(3-chlorophenyl)-5-(4-chlorophenyl)-1-methyl-4(1H)-pyridinone | ClC=1C=C(C=CC1)C1=CN(C=C(C1=O)C1=CC=C(C=C1)Cl)C | C18H13Cl2NO
reactant | pyridinone | N1C(C=CC=C1)=O | C5H5NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | 2-propanone | CC(C)=O | C3H6O
product | 3-(3-chlorophenyl)-5-(4-chlorophenyl)-1-methyl-4-piperidinone | ClC=1C=C(C=CC1)C1CN(CC(C1=O)C1=CC=C(C=C1)Cl)C | C18H17Cl2NO
